US04870074
Preparation of 4-amino-5-chloro-2-ethoxy-N-[[4-(4-fluorobenzyl)-2-morpholinyl]methyl]benzamide (the same compound as that of Example 1)
Stannous chloride dihydrate (5.4 g) is added to a stirred mixture of 5-chloro-2-ethoxy-N-[[4-(4-fluorobenzyl)-2-morpholinyl]methyl]-4-nitrobenzamide (2.2 g), ethanol (30 ml), and ethyl acetate (30 ml). The reaction mixture is stirred at 70° C. for 2 hours and concentrated. The residue is basified with aqueous potassium carbonate solution and extracted with ethyl acetate. The organic layer is washed successively with water and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and evaporated. The residue is recrystallized from ethanol to give the title compound (1.1 g), mp 151°-153° C.

reactant | 5-chloro-2-ethoxy-N-[[4-(4-fluorobenzyl)-2-morpholinyl]methyl]-4-nitrobenzamide | 2.2 g | ClC=1C(=CC(=C(C(=O)NCC2CN(CCO2)CC2=CC=C(C=C2)F)C1)OCC)[N+](=O)[O-] | C21H23ClFN3O5
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-amino-5-chloro-2-ethoxy-N-[[4-(4-fluorobenzyl)-2-morpholinyl]methyl]benzamide | 1.1 g | NC1=CC(=C(C(=O)NCC2CN(CCO2)CC2=CC=C(C=C2)F)C=C1Cl)OCC | C21H25ClFN3O3
